US05223498
In a similar manner to that described in Example 286, N-(3-methyl-2-morpholinophenyl)cyanamide (2.5 g) in ethanol (8 ml) and a 33% ethanolic solution of dimethylamine (3.5 ml) were heated under reflux for 1 hour. A further amount of the 33% ethanolic solution of dimethylamine (3.5 ml) was added and the mixture heated under reflux for a further hour to give 1,1-dimethyl-2-(3-methyl-2-morpholinophenyl)guanidine (m.p. 100° C.) which was recrystallised from hexane and converted into its monofumarate salt (m.p. 180° C.) which was recrystallised from a 1:1 mixture of methanol and ether.

reactant | N-(3-methyl-2-morpholinophenyl)cyanamide | 2.5 g | CC=1C(=C(C=CC1)NC#N)N1CCOCC1 | C12H15N3O
reactant | dimethylamine | 3.5 ml | CNC | C2H7N
reactant | dimethylamine | 3.5 ml | CNC | C2H7N
reactant | ethanol | 8 ml | C(C)O | C2H6O
product | 1,1-dimethyl-2-(3-methyl-2-morpholinophenyl)guanidine | CN(C(=NC1=C(C(=CC=C1)C)N1CCOCC1)N)C | C14H22N4O
